US06028223
Synthesis of 6-Chlorothiocoumarin:
A powdered mixture of S-(4-chlorophenyl) thiocinnamate (19.4 g) and aluminum chloride (52 g) was stirred and heated at 125° C. for 3 hours. The hot reaction mixture was poured carefully over ice/water, then was extracted with ethyl acetate (3×300 mL), washed with brine (200 mL), dried (MgSO4) and was concentrated. The residue was triturated with hexane/ethyl acetate to afford 2.0 g (14%) of the desired product as pale yellow crystals.

reactant | S-(4-chlorophenyl) thiocinnamate | 19.4 g | C(C=CC1=CC=CC=C1)(=O)SC1=CC=C(C=C1)Cl | C15H11ClOS
reactant | aluminum chloride | 52 g | [Cl-].[Al+3].[Cl-].[Cl-]
product | 6-Chlorothiocoumarin | 2.0 g, 14% | ClC=1C=C2C=CC(OC2=CC1)=S | C9H5ClOS
